US03933824
γ-[4-(p-Methylbenzyl)piperazino]-4-fluorobutyrophenone
γ-[4-(p-Fluorobenzyl)piperazino]-4-fluorobutyrophenone γ-[4-(p-Trifluoromethylpiperazino]-4-fluorobutyrophenone

reactant | γ-[4-(p-Fluorobenzyl)piperazino]-4-fluorobutyrophenone | FC1=CC=C(CN2CCN(CC2)C(CCC(=O)C2=CC=CC=C2)F)C=C1 | C21H24F2N2O
reactant | 4-(p-Trifluoromethylpiperazino]-4-fluorobutyrophenone | FC(N1CCN(CC1)C(CCC(=O)C1=CC=CC=C1)F)(F)F | C15H18F4N2O
product | γ-[4-(p-Methylbenzyl)piperazino]-4-fluorobutyrophenone | CC1=CC=C(CN2CCN(CC2)C(CCC(=O)C2=CC=CC=C2)F)C=C1 | C22H27FN2O
